US08202858B2
4-[(3-Chloro-benzoylamino)-methyl]-N-(4-chloro-phenyl)-3,N-dimethyl-benzamide
3-Chlorobenzoyl chloride (61 mg, 0.35 mmol) and triethyl-amine (to pH9) were added to a solution of 4-aminomethyl-N-(4-chloro-phenyl)-3,N-dimethyl-benzamide from Example E115.2 (100 mg, 0.35 mmol) in dichloro-methane (5 ml) at room temperature. The mixture was stirred for 1 h then concentrated in vacuo. The residue was purified by preparative HPLC (eluant; 0.5% 35% ammonia:9.5% methanol:90% dichloromethane) to give a white solid identified as the title compound (101 mg, 69%).

reactant | 3-Chlorobenzoyl chloride | 0.35 mmol, 61 mg | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | triethyl-amine | pH9 | C(C)N(CC)CC | C6H15N
reactant | 4-aminomethyl-N-(4-chloro-phenyl)-3,N-dimethyl-benzamide | NCC1=C(C=C(C(=O)N(C)C2=CC=C(C=C2)Cl)C=C1)C | C16H17ClN2O
solvent | dichloro-methane | 5 ml | ClCCl | CH2Cl2
product | 4-[(3-Chloro-benzoylamino)-methyl]-N-(4-chloro-phenyl)-3,N-dimethyl-benzamide | 101 mg, 69% | ClC=1C=C(C(=O)NCC2=C(C=C(C(=O)N(C)C3=CC=C(C=C3)Cl)C=C2)C)C=CC1 | C23H20Cl2N2O2
